US09169198B2
The above-described method (Example 2) was repeated to react benzyl 2-amino-5-bromo-3-methylbenzoate (3.00 g, 7.38 mmol) with copper cyanide (0.772 g, 7.98 mmol) in N-methylpyrrolidone at 170° C. for 6 hours. Following working up similar to Example 2, additional extraction with ethyl acetate, washing with aqueous 5% ethylenediamine solution and column chromatography, benzyl 2-amino-5-cyano-3-methylbenzoate (1.00 g, 47.9% of theory, 97.0 area % LC) was obtained as a pale brown solid.

reactant | benzyl 2-amino-5-bromo-3-methylbenzoate | 7.38 mmol, 3.00 g | NC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1C)Br | C15H14BrNO2
reactant | copper cyanide | 7.98 mmol, 0.772 g | [Cu](C#N)C#N
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | benzyl 2-amino-5-cyano-3-methylbenzoate | 1.00 g, 47.9% | NC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1C)C#N | C16H14N2O2
